US05990101
3-(hydroxyaminocarbonyl)methylimidazo[5,1-b]thiazole
To 2 ml of an ethanol solution containing 204.3 mg of 3-ethoxycarbonylmethylimidazo[5,1-b]thiazole, 108.2 mg of hydroxylamine hydrochloride and 210.2 mg of a sodium ethoxide powder were added, and the mixture was then stirred at room temperature for 2 hours. Under ice-cooling, 0.4 ml of 1N hydrochloric acid was added to the reaction solution to neutralize the solution. The solvent was evaporated under reduced pressure, and the resulting residue was purified by Diaion HP-20 Resin to obtain 140 mg of the title compound.

reactant | 3-ethoxycarbonylmethylimidazo[5,1-b]thiazole | 204.3 mg | C(C)OC(=O)CC=1N2C(SC1)=CN=C2 | C9H10N2O2S
reactant | hydroxylamine hydrochloride | 108.2 mg | Cl.NO
reactant | sodium ethoxide | 210.2 mg | [O-]CC.[Na+]
reactant | hydrochloric acid | 1N, 0.4 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 3-(hydroxyaminocarbonyl)methylimidazo[5,1-b]thiazole | 140 mg | ONC(=O)CC=1N2C(SC1)=CN=C2 | C7H7N3O2S
